US07122543B2
N-[5-(5,6-Dimethoxy-3-methyl-1,4-benzoquinon-2-yl)methyl-2-(4-methoxyphenyl]benzoyl)-4-methoxyaniline
5-(5,6-Dimethoxy-3-methyl-1,4-benzoquinon-2-yl)methyl-2-(4-methoxyphenyl) benzoic acid (100 mg, 0.2369 mmol) was dissolved in methylene chloride (20 ml), then p-anisidine (58 mg, 0.4715 mmol), triethylamine (48 mg, 0.4752 mmol) and 2-chloro-1,3-dimethylimidazolinium chloride (80 mg, 0.4733 mmol) were added thereto at room temperature and the mixture was stirred at room temperature for 16 hours. The reaction solution was poured into water and extracted with ethyl acetate. The extract was washed with water and dried and the solvent was evaporated therefrom. The residue was purified by preparative thin layer silica gel (hexane:ethyl acetate=1:1) to give the title compound (78 mg, 0.1480 mmol, 62%).

reactant | 5-(5,6-Dimethoxy-3-methyl-1,4-benzoquinon-2-yl)methyl-2-(4-methoxyphenyl) benzoic acid | 0.2369 mmol, 100 mg | COC=1C(C(=C(C(C1OC)=O)CC=1C=CC(=C(C(=O)O)C1)C1=CC=C(C=C1)OC)C)=O | C24H22O7
reactant | p-anisidine | 0.4715 mmol, 58 mg | COC1=CC=C(C=C1)N | C7H9NO
reactant | triethylamine | 0.4752 mmol, 48 mg | C(C)N(CC)CC | C6H15N
reactant | 2-chloro-1,3-dimethylimidazolinium chloride | 0.4733 mmol, 80 mg | [Cl-].ClC1[NH+](CCN1C)C
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
product | N-[5-(5,6-Dimethoxy-3-methyl-1,4-benzoquinon-2-yl)methyl-2-(4-methoxyphenyl]benzoyl)-4-methoxyaniline | 0.1480 mmol, 78 mg, 62% | COC=1C(C(=C(C(C1OC)=O)CC=1C=CC(=C(C(=O)NC2=CC=C(C=C2)OC)C1)C1=CC=C(C=C1)OC)C)=O | C31H29NO7
